US07279478B2
Step 1 (4-bromophenyl)(1,3-thiazol-2-yl)methanol
Using the same protocol as described in example 22, step 1, 2-bromothiazole (451 μL, 5.0 mmol) was added to 4-bromobenzaldehyde (1.018 g, 5.5 mmol). The crude residue was chromatographed on silica gel using 50% ethyl acetate in hexanes to afford the title compound.

reactant | 2-bromothiazole | 5.0 mmol, 451 μL | BrC=1SC=CN1 | C3H2BrNS
reactant | 4-bromobenzaldehyde | 5.5 mmol, 1.018 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | (4-bromophenyl)(1,3-thiazol-2-yl)methanol | BrC1=CC=C(C=C1)C(O)C=1SC=CN1 | C10H8BrNOS
